US06028195
1-[(4,5-Dimethyl-2-methoxyphenyl)aminocarbonyl]-4-(2-hydroxyphenyl)piperazine
Phenyl N-(4,5-dimethyl-2-methoxyphenyl)carbamate and 1-(2-hydroxyphenyl)piperazine were reacted by the same way with the example 170 to obtain the titled compound.

reactant | Phenyl N-(4,5-dimethyl-2-methoxyphenyl)carbamate | CC1=CC(=C(C=C1C)NC(OC1=CC=CC=C1)=O)OC | C16H17NO3
reactant | 1-(2-hydroxyphenyl)piperazine | OC1=C(C=CC=C1)N1CCNCC1 | C10H14N2O
product | 1-[(4,5-Dimethyl-2-methoxyphenyl)aminocarbonyl]-4-(2-hydroxyphenyl)piperazine | yield: 87% | CC1=CC(=C(C=C1C)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)O)OC | C20H25N3O3
